US05064649
(c) Diphenylmethyl 3-(E-2,5-dihydro-4-methyl-2-oxo-3 phenylfuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate
2,5-Dihydro-4-methyl-2-oxo-3-phenylfuran-5-yl-triphenylphosphonium bromide (2.21 g) and diphenylmethyl 3-formyl-7β-phenylacetamidoceph-3-em-4-carboxylate (2 g) in dichloromethane (30 mls) and saturated aqueous sodium hydrogen carbonate (30 mls) were stirred vigorously atroom temperature for ca 20 mins. T.l.c. analysis showed all the starting material had been consumed. The organic layer was separated and washed with dilute hydrochloric acid, brine and then dried. After removal of solvent, the residue was flash chromatographed on silica gel eluting with 40% ethyl acetate/hexane. After trituration with ether, the title compound was obtained as a pale yellow crystalline compound, (0.643 g, 25%), m.p. 180°-183° C. (decomp.) ethyl acetate/hexane. (Found: C, 71.93; H, 5.10; N, 4.17; S, 4.54.%. C40H32N2O6S requires C, 71.84; H, 4.82; N, 4.19; S, 4.79%); νmax (CH2Cl2) 1785, 1760, 1715, 1680, 1490 and 1365cm - ; δH (CDCl3) 1.99 (3H,s), 3.44 (2H,ABq, J18.7Hz), 3.67 (2H,ABq,J16.1Hz), 5.02 (1H,d,J4.9Hz), 5.93 (1H,dd,J4.9,8.9Hz), 6.08(1H,d,J8.9Hz), 6.28(1H,s), 6.97 (1H,s) and 7.1-7.5 (20H,m); [mass spectrum: +ve ion (3-NOBA, Na+) MNa+, 691].

reactant | 2,5-Dihydro-4-methyl-2-oxo-3-phenylfuran-5-yl-triphenylphosphonium bromide | 2.21 g | [Br-].CC=1C(C(OC1[P+](C=1CC=CCC1)(C=1CC=CCC1)C=1CC=CCC1)=O)C1=CC=CC=C1
reactant | diphenylmethyl 3-formyl-7β-phenylacetamidoceph-3-em-4-carboxylate | 2 g | C(=O)C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C29H24N2O5S
solvent | dichloromethane | 30 mls | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 30 mls | C(O)([O-])=O.[Na+]
product | Diphenylmethyl 3-(E-2,5-dihydro-4-methyl-2-oxo-3 phenylfuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate | CC/1=C(C(O\C1=C\C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O)C2=CC=CC=C2 | C40H32N2O6S
